US08530483B2
To a stirred solution of 1H-Pyrrolo[2,3-b]pyridine-5-carbonitrile (2.88 g, 20.1 mmol) in DMF (40 mL) was added 60% NaH (2.41 g, 60.4 mmol). After 20 minutes, iodomethane was added in one portion (6.3 mL, 101 mmol) and the resulting mixture was stirred overnight. The following day, water was carefully added drop-wise to quench the remaining NaH before additional water was added (50 mL) causing precipitation of the product. Filtration and drying in vacuo afforded 1-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbonitrile (3.16 g, 20.1 mmol, 100% yield) which was subsequently used without further purification. ES MS (M+H+)=158.

reactant | 1H-Pyrrolo[2,3-b]pyridine-5-carbonitrile | 20.1 mmol, 2.88 g | N1C=CC=2C1=NC=C(C2)C#N | C8H5N3
reactant | NaH | 60.4 mmol, 2.41 g | [H-].[Na+]
reactant | iodomethane | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 1-methyl-1H-pyrrolo[2,3-b]pyridine-5-carbonitrile | 20.1 mmol, 3.16 g, 100% yield | CN1C=CC=2C1=NC=C(C2)C#N | C9H7N3
